* C:\Users\kid group\Documents\Repos\E_Moto\Hardware\Simulations\Draft1.asc
R1 vref N001 10k
R2 out N001 10k
C1 N001 0 .01µ
C2 out 0 .01µ
V1 vref 0 3.3
S1 0 N001 N002 0 MYSW
V2 N002 0 PULSE(0 1 0 .01m .01m 10m 20m 0)
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.tran 50m
.backanno
.end
