* C:\Users\kid group\Documents\Repos\E_Moto\Hardware\Simulations\Efuse_Latch.asc
V1 5V 0 5V
V2 lat 0 PWL(0 0 .024 3.3 .027 0)
XU1 N008 N007 5V 0 nFault LM2901
V4 N008 0 2.5
R4 5V nFault 10k
R1 lat N007 10k
M1 N007 N004 5V 5V BSS84
R2 5V N004 10k
M2 N004 EN nFault nFault BSP89
V3 EN 0 PULSE(0 3.3 5m 0.001m 0.001m 5m 10m)
M3 N006 5V nFault nFault BSP89
R3 N001 N003 10k
R5 CP N001 100k
V5 VBAT 0 12
M4 VBAT N001 gate gate BSS84
V6 CP VBAT 13
R6 gate CP 4k
M5 N005 3V3 EN EN BSP89
R7 N001 N002 10k
V7 3V3 0 3.3
D1 N002 N005 1N4148
D2 N003 N006 1N4148
.model D D
.lib C:\Users\kid group\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kid group\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .03
* LM2901 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/14/90 AT 13:05
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM2901   1 2 3 4 5
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .75
  VI2  22  2 DC .75
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=3.378E3 CJC=1E-15 TF=930.2E-12 TR=543.8E-9)
  DP    4  3 DX
  RP    3  4 50.00E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

.lib UniversalOpamps2.sub
.backanno
.end
