* C:\Users\kid group\Documents\Repos\E_Moto\Hardware\Simulations\HighSideDriver_Improved.asc
R1 N001 base 1000
R2 base 0 10000
V1 vBat 0 PULSE(0 16 25m 5n 5n 100 100 10)
Q1 N002 base 0 0 FMMTA42
R3 gate N002 440
V2 N001 0 PULSE(0 3.3 50m 5n 5n 50m 100m 10)
R5 load 0 10
C2 load 0 2.2µ
XM1 load gate vBat irf4905
R4 vBat gate 1000
C1 vBat 0 10µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\kid group\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 200m 0 .1
*ZETEX FMMTA42 Spice Model v2.0 Last Revised 24/2/05
    *
    .MODEL FMMTA42 NPN IS =5E-14 NF =1 BF =230 IKF=250E-3
    +VAF=610 ISE=9E-15 NE =1.28 RCO=75 GAMMA=3.1E-7
    +NR =1 BR =5 VAR=45 ISC=5e-12 NC =1.3 
    +RB =7 RE =0.07 RC =0.07 QUASIMOD=1
    +CJC=9.26E-12 MJC=0.241 VJC=0.3905 CJE=68.6E-12 
    +TF =1.1E-9 TR =0.9e-6 XTB=1.4 
    *
    *$
    *
.SUBCKT irf4905 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun 19, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.53713 LAMBDA=0.00549383 KP=23.3701
+CGSO=2.84439e-05 CGDO=1e-11
RS 8 3 0.0101265
D1 1 3 MD
.MODEL MD D IS=1.29014e-08 RS=0.00297795 N=1.46717 BV=55
+IBV=0.00025 EG=1.2 XTI=4 TT=0
+CJO=3.56968e-09 VJ=1.17553 M=0.500933 FC=0.5
RDS 3 1 2.2e+06
RD 9 1 0.0001
RG 2 7 6
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.83772e-09 VJ=0.625334 M=0.543532 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.08035e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS
.backanno
.end
